US06111115
Preparation (VI) of 2-(3-carboxymethyl-4-nitrophenyl)propionic acid
In acetic acid (1 mL) was dissolved diethyl 2-[3-[cyano(ethoxycarbonyl)methyl]-4-nitrophenyl]-2-methylmalonate (obtained in the same manner as in Example 5, 406 mg, 1 mmol.). The solution was heated for 36 hours under reflux, after addition of water (0.9 mL) and concentrated sulfuric acid (0.1 mL). The reaction mixture was diluted with water, and then extracted with ethyl acetate. The ethyl acetate portion was washed successively with water and an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, to give 189 mg (yield: 75%) of the desired compound as a brown crystalline product.

reactant | sulfuric acid | 0.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | diethyl 2-[3-[cyano(ethoxycarbonyl)methyl]-4-nitrophenyl]-2-methylmalonate | C(#N)C(C=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)(C(=O)OCC)C)C(=O)OCC | C19H22N2O8
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 0.9 mL | O | H2O
product | 2-(3-carboxymethyl-4-nitrophenyl)propionic acid | 189 mg, yield: 75% | C(=O)(O)CC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)O)C | C11H11NO6
